US05977105
b) (2R)-1-[6-(Cyclopropylmethoxy)-1-fluoro-2-naphthyloxy]-4-(3-pyridyl)-2-butanol
Prepared according to the method described in Example 26e) from (2R)-2-(tert-butyldimethylsilyloxy)-4-(3-pyridyl)-1-butyl para-toluenesulfonate (0.215 g), sodium hydride (60% dispersion in mineral oil, 0.02 g) and 6-cyclopropylmethoxy-1-fluoro-2-hydroxynaphthalene (0.115 g) in dimethylformamide (3 ml). The adduct was dissolved in tetrahydrofuran (5 ml) and tetrabutylammonium fluoride (0.25 g) was added. The reaction was stirred at room temperature for 2 hours and was then poured into water and extracted with ethyl acetate. The organic extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography eluting with acetone:hexane (2:3) to give the title compound as a solid (0.077 g).

reactant | (2R)-2-(tert-butyldimethylsilyloxy)-4-(3-pyridyl)-1-butyl para-toluenesulfonate | 0.215 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H](CCC=1C=NC=CC1)O[Si](C)(C)C(C)(C)C)C | C22H33NO4SSi
reactant | sodium hydride | 0.02 g | [H-].[Na+]
reactant | 6-cyclopropylmethoxy-1-fluoro-2-hydroxynaphthalene | 0.115 g | C1(CC1)COC=1C=C2C=CC(=C(C2=CC1)F)O | C14H13FO2
reactant | tetrabutylammonium fluoride | 0.25 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (2R)-1-[6-(Cyclopropylmethoxy)-1-fluoro-2-naphthyloxy]-4-(3-pyridyl)-2-butanol | 0.077 g | C1(CC1)COC=1C=C2C=CC(=C(C2=CC1)F)OC[C@@H](CCC=1C=NC=CC1)O | C23H24FNO3
